US06177449B1
b) N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-(2-methoxyethyl)methanesulfonamide
6 g of N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-(2-methoxyethyl)methanesulfonamide were dissolved in 100 ml of THF/methanol (1:1) and hydrogenated in a shaking duck using Pd/carbon. The crude product was crystallized using diisopropyl ether, 4.6 g, m.p. 115-117° C.

reactant | N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-(2-methoxyethyl)methanesulfonamide | 6 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)C)CCOC | C22H29NO5S
solvent | THF methanol | 100 ml | C1CCOC1.CO
catalyst | Pd carbon | [Pd].[C]
product | N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-(2-methoxyethyl)methanesulfonamide | CC1(OC2=CC=C(C=C2C(C1)N(S(=O)(=O)C)CCOC)O)C | C15H23NO5S
